* C:\Users\Vatsal\eSim-Workspace\CMOS_Transmission_Gate\CMOS_Transmission_Gate.cir


.lib "sky130_fd_pr/models/sky130.lib.spice" tt


* Sheet Name: /
xM1  IN -CONTROL OUT IN sky130_fd_pr__pfet_01v8 W=.5 L=.5
xM2  OUT CONTROL IN IN sky130_fd_pr__nfet_01v8 W=.42 L=.5	

v2  -CONTROL GND 0 pulse(1.8 0 0s 0s 0s 10us 20us)		
v1  IN GND 0 pulse(0 1.8 0s 0s 0s 5us 10us)
v3  CONTROL GND 0 pulse(0 1.8 0s 0s 0s 10us 20us)

.tran 0.1us 40us

.control
run

plot V("out") 
plot V("in") 
plot V("control") 
plot V("-control")

.endc

.end
